US06645916B1
a) 2-Amino4-isopropyl-6-[2-(3-trifluoromethylphenoxy)-1-ethyl-ethylamino]-1,3,5-triazine (Table 1, Example 68)
2.6 g (0.015 mol) of 2-amino4-chloro-6-isopropyl-1,3,5-triazine, 4.0 g (0.015 mol) of 1-(3-trifluoromethylphenoxy)-2-aminobutane hydrochloride and 6.2 g (0.045 mol) of potassium carbonate were added to 50 ml of dimethylformamide (DMF). The mixture was heated at 80° C. for 3 hours, added into water and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and filtered and the solvent was evaporated under reduced pressure. Purification by silica gel column chromatography using ethyl acetate/petroleum ether (1:1) gave 4.2 g (76%) of the title compound.

reactant | 2-amino4-chloro-6-isopropyl-1,3,5-triazine | 0.015 mol, 2.6 g | NC1=NC(=NC(=N1)Cl)C(C)C | C6H9ClN4
reactant | 1-(3-trifluoromethylphenoxy)-2-aminobutane hydrochloride | 0.015 mol, 4.0 g | Cl.FC(C=1C=C(OCC(CC)N)C=CC1)(F)F
reactant | potassium carbonate | 0.045 mol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Amino4-isopropyl-6-[2-(3-trifluoromethylphenoxy)-1-ethyl-ethylamino]-1,3,5-triazine | 4.2 g, 76% | NC1=NC(=NC(=N1)C(C)C)NC(COC1=CC(=CC=C1)C(F)(F)F)CC | C17H22F3N5O
